US06441005B1
5-(S)-Thioacetamidomethyl-3-[4′-aminocarbonyl-3′-fluorophenyl]oxazolidine-2-one
A solution of 5-(S)-aminomethyl-3-[4′-aminocarbonyl-3′-fluorophenyl]oxazolidine-2-one (1.75 g, 6.9 mmol), triethylamine (2.0 ml, 13.8 mmol) and ethyl dithioacetate (0.87 ml, 7.6 mmol) and DMF (5 ml) in acetonitrile (5 ml) was stirred at r.t. for 48 h. Solvent was removed under vacuum, and the crude material purified by silica gel chromatography (eluent: 10% methanol in ethyl acetate). White crystalline solid (1.3 g, 61%). HPLC Rt=4.5 min. MS (m/z): [M+H]+=312.

reactant | 5-(S)-aminomethyl-3-[4′-aminocarbonyl-3′-fluorophenyl]oxazolidine-2-one | 6.9 mmol, 1.75 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)N)F | C11H12FN3O3
reactant | triethylamine | 13.8 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl dithioacetate | 7.6 mmol, 0.87 ml | C(C)(=S)SCC | C4H8S2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-(S)-Thioacetamidomethyl-3-[4′-aminocarbonyl-3′-fluorophenyl]oxazolidine-2-one | C(C)(=S)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)N)F | C13H14FN3O3S
